US07625950B2
To a solution of 4-[2-(4-hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenol (300 mg, 1.27 mmol) in DMF (5 ml) was added Cs2CO3 (1.2 g, 3.83 mmol) and (3-bromo-propoxy)-benzene (273 mg, 1.27 mmol). The reaction mixture was stirred at 85° C. for 4 hours. AcOEt and water were then added, the organic layer was separated and the aqueous phase was extracted with AcOEt (3×50 ml). The combined organic extracts were washed with brine, dried over MgSO4, and evaporated to dryness. Purification by flash chromatography (AcOEt/Hexane 9:1) affords (2-methyl-4-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-yl)-methanol as colorless oil. To a solution of (2-methyl-4-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-yl)-methanol (50 mg, 0.135 mmol) in ethanol (2 ml) was added conc. HCl (2 ml). The reaction mixture was stirred at 85° C. for 2 hours, then concentrated to dryness. The residue was re-dissolved in AcOEt and precipitated with hexanes. The solid was filtered off, washed with dry ether and dried in vacuo to afford 2-amino-2-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-propane-1,3-diol hydro-chloride as a colorless powder. ESI+ MS: m/z=370.4 (M+H)+.

reactant | (2-methyl-4-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-yl)-methanol | 0.135 mmol, 50 mg | CC=1OCC(N1)(CCC1=CC=C(C=C1)OCCCOC1=CC=CC=C1)CO | C22H27NO4
reactant | HCl | 2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-amino-2-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-propane-1,3-diol hydro-chloride | Cl.NC(CO)(CO)CCC1=CC=C(C=C1)OCCCOC1=CC=CC=C1 | InChI=1S/C20H27NO4.ClH/c21-20(15-22,16-23)12-11-17-7-9-19(10-8-17)25-14-4-13-24-18-5-2-1-3-6-18;/h1-3,5-10,22-23H,4,11-16,21H2;1H
